US04294972
To a stirred suspension of 3-hydroxy-3,4-dimethyoctylamine (4.91 g; 28.38 mmole) and anhydrous sodium carbonate (5 g) in dry etanol (40 ml) was added ethyl chloroformate (3.65 g; 33.6 mmole) in dry ethanol (25 ml), over 30 min. The mixture was heated under reflux for 1 hr and then poured into water (200 ml). The product was extracted into diethyl ether (3×100 ml), and the combined organic layers washed with dilute hydrochloric acid (1×100 ml) and brine (1×100 ml) and dried. (Na2SO4). Evaporation in vacuo gave ethyl N-[3-hydroxy-3,4-dimethyloctyl]-carbamate (6.2 g; 891).

reactant | 3-hydroxy-3,4-dimethyoctylamine | 28.38 mmole, 4.91 g | OC(CCN)(C(CCCC)C)C | C10H23NO
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl chloroformate | 33.6 mmole, 3.65 g | ClC(=O)OCC | C3H5ClO2
reactant | water | 200 ml | O | H2O
solvent | etanol | 40 ml | CCO | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl N-[3-hydroxy-3,4-dimethyloctyl]-carbamate | 6.2 g | OC(CCNC(OCC)=O)(C(CCCC)C)C | C13H27NO3
